US05178662
2-Methylthio-4,6-bis(isopropylamino)-1,3,5triazine (prometryne)
2-Methylthio-4-isopropylamino-6-methylamino-1,3,5-triazine (ametryne

reactant | 2-Methylthio-4-isopropylamino-6-methylamino-1,3,5-triazine | CSC1=NC(=NC(=N1)NC(C)C)NC | C8H15N5S
reactant | ametryne | CCNC=1N=C(N=C(N1)SC)NC(C)C | C9H17N5S
product | 2-Methylthio-4,6-bis(isopropylamino)-1,3,5triazine | CSC1=NC(=NC(=N1)NC(C)C)NC(C)C | C10H19N5S
